US08912188B2
To a solution of (1-phenyl-4-(tetrahydro-2H-pyran-2-yloxy)but-2-yn-1-one (3.0 g, 12.3 mmol) in EtOH (20 mL) was added pyridinium p-toluenesulfonate (0.62 g, 2.5 mmol). The resulting solution was stirred for 1 h at 50° C. and then the reaction mixture was poured into water (150 mL), extracted with Et2O (3×50 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 4-hydroxy-1-phenylbut-2-yn-1-one as a dark red oil (3.2 g, crude).

reactant | 1-phenyl-4-(tetrahydro-2H-pyran-2-yloxy)but-2-yn-1-one | 12.3 mmol, 3.0 g | C1(=CC=CC=C1)C(C#CCOC1OCCCC1)=O | C15H16O3
reactant | pyridinium p-toluenesulfonate | 2.5 mmol, 0.62 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | 150 mL | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-hydroxy-1-phenylbut-2-yn-1-one | OCC#CC(=O)C1=CC=CC=C1 | C10H8O2
